US04523030
While stirring at from 20° to 30°, 7.96 g of 5-methoxybenzocyclobutene-1-carbonitrile in 40 ml of dichloromethane are added dropwise to a suspension of 26.6 g of aluminium trichloride in 60 ml of dichloromethane. Stirring is carried out for 30 minutes at from 20° to 30° and then, over a period of 15 minutes, 20.95 g of 2,6-dichlorobenzoyl chloride are added dropwise thereto and the whole is stirred for 4 hours at room temperature and then poured into a mixture of 500 g of ice-water and 10 ml of concentrated hydrochloric acid. Stirring is then carried out for 30 minutes, 200 ml of trichloromethane are added, the whole is vigorously shaken and the organic phase is separated off, washed several times with semiconcentrated hydrochloric acid, dried over magnesium sulphate, concentrated to dryness by evaporation and recrystallised from dichloromethane/hexane. 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carbonitrile is obtained having a melting point of 174°-175°.

reactant | 5-methoxybenzocyclobutene-1-carbonitrile | 7.96 g | COC=1C=CC2=C(C(=C2)C#N)C1 | C10H7NO
reactant | aluminium trichloride | 26.6 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 2,6-dichlorobenzoyl chloride | 20.95 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | trichloromethane | 200 ml | ClC(Cl)Cl | CHCl3
product | 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carbonitrile | ClC1=C(C(=O)C2=CC3=C(C(=C3)C#N)C=C2O)C(=CC=C1)Cl | C16H7Cl2NO2
